US03992389
4-(4-Chlorobenzamido)-1-(4-phenyl-4-oxobutyl)piperidine
4-Amino-1-(4-phenyl-4-oxobutyl)piperidine dihydrochloride (3.19 g.) was acylated with p-chloro-benzoyl chloride (1.75 g.) in the manner of example75. Filtration afforded the title compound as the base (3.277 g.). This wassuspended in boiling ethanol (15 ml). and ethanol/HCl added until acid. On cooling the title compound crystallised out as the hydrochloride, colourless needles (3.41 g.), m.p. 261.1°. Analysis: Found: C, 62.89; H, 6.33; N, 6.64. C22H25CIN2O2.HCl requires C, 62.69; H, 6.22; N, 6.65%.

reactant | 4-Amino-1-(4-phenyl-4-oxobutyl)piperidine dihydrochloride | 3.19 g | Cl.Cl.NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1
reactant | p-chloro-benzoyl chloride | 1.75 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 4-(4-Chlorobenzamido)-1-(4-phenyl-4-oxobutyl)piperidine | ClC1=CC=C(C(=O)NC2CCN(CC2)CCCC(=O)C2=CC=CC=C2)C=C1 | C22H25ClN2O2
